US09029528B2
(2) Synthesis of 3,5-bis(docosyloxy)benzyl alcohol
Under an argon atmosphere, methyl [3,5-bis(docosyloxy)]benzoate (2.03 g, 2.59 mmol) was dissolved in dehydrating tetrahydrofuran (50 mL) and, under ice-cooling, lithium aluminum hydride (148 mg, 3.93 mmol) was added, and the mixture was stirred at 40° C. for 1 hr. Ethyl acetate was added dropwise to decompose unreacted lithium aluminum hydride. Diethyl ether was added, and the mixture was washed with aqueous hydrochloric acid. The organic layer was concentrated under reduced pressure, methanol was added to the concentrated solution, and the precipitated solid was collected by filtration. The obtained solid was dried under reduced pressure to give the title compound (1.73 g, 88.0%) as a white solid.

reactant | methyl [3,5-bis(docosyloxy)]benzoate | 2.59 mmol, 2.03 g | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(C(=O)OC)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C52H96O4
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 3.93 mmol, 148 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3,5-bis(docosyloxy)benzyl alcohol | 1.73 g, 88.0% | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C51H96O3
